US06262056B1
2. 5-nitro-benzo[b]thiophen-2-carboxylic acid
10 g (39.8×10−3 moles) 5-nitrobenzo[b]thiophen-2-carboxylic acid ethyl ester in 250 ml of EtOH and 60 ml of H2O were reacted with 3.8 g (67.8×10−3 moles) of KOH at 60° C. for 2 hours, after which the potassium salt of the product was collected by filtration. A further fraction of the product was collected on adding isopropanol to the filtrate. The salt was dissolved in water and after acidulating the solution with HCl(c), the protonated form of the acid was precipitated out. It was purified by recrystallisation in H2O/EtOH. Yield: 85%.

reactant | 5-nitrobenzo[b]thiophen-2-carboxylic acid ethyl ester | 39.8×10−3 moles, 10 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)[N+](=O)[O-] | C11H9NO4S
reactant | KOH | 67.8×10−3 moles, 3.8 g | [OH-].[K+]
solvent | EtOH | 250 ml | CCO | C2H6O
solvent | H2O | 60 ml | O | H2O
product | 5-nitro-benzo[b]thiophen-2-carboxylic acid | Yield: 85% | [N+](=O)([O-])C1=CC2=C(SC(=C2)C(=O)O)C=C1 | C9H5NO4S
